US08314120B2
2-butyl-5-(5-phenylpyridin-3-yl)-2,3-dihydro-1H-isoindol-1-one
As described for Example 23 starting from 3-bromo-5-phenylpyridine (50 mg, 0.214 mmol, commercially available) and 2-butyl-1-oxoisoindolin-5-ylboronic acid (49.8 mg, 0.214 mmol, s. above). Yield 14% (10 mg).

reactant | 3-bromo-5-phenylpyridine | BrC=1C=NC=C(C1)C1=CC=CC=C1 | C11H8BrN
reactant | 2-butyl-1-oxoisoindolin-5-ylboronic acid | 0.214 mmol, 49.8 mg | C(CCC)N1C(C2=CC=C(C=C2C1)B(O)O)=O | C12H16BNO3
product | 2-butyl-5-(5-phenylpyridin-3-yl)-2,3-dihydro-1H-isoindol-1-one | Yield 14% | C(CCC)N1C(C2=CC=C(C=C2C1)C=1C=NC=C(C1)C1=CC=CC=C1)=O | C23H22N2O
